US07250518B2
N-{2-Fluoro4-[1-methyl-1-(1H-tetrazol-5-yl)-ethyl]-benzyl}-2-(4-fluoro-phenoxy)-nicotinamide of Formula (6.5.29):
To N-[4-(cyano-dimethyl-methyl)-2-fluoro-benzyl]-2-(4-fluoro-phenoxy)-nicotinamide (2.36 g) in a 50 mL sealable tube were added anhydrous toluene (2 mL), azidotrimethylsilane (1.42 mL), and dimethyl tin oxide (0.19 g). The reaction was stirred at 100° C. for seven days. The solvent was removed in vacuo. The residue was then taken up in acetone, and the precipitate was filtered and rinsed with water, giving a brown solid (1.13 g). The filtrate was concentrated, then taken up in satd. aq. sodium bicarbonate, (50 mL) and washed with ethyl acetate (50 mL). The aqueous was acidified to pH 3, and extracted with ethyl acetate (3×100 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The combined recovered solids were recrystallized with ethanol, yielding the title compound (1.26 g).

reactant | N-[4-(cyano-dimethyl-methyl)-2-fluoro-benzyl]-2-(4-fluoro-phenoxy)-nicotinamide | 2.36 g | C(#N)C(C1=CC(=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1)F)(C)C | C23H19F2N3O2
reactant | azidotrimethylsilane | 1.42 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dimethyl tin oxide | 0.19 g | C[Sn](C)=O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-{2-Fluoro4-[1-methyl-1-(1H-tetrazol-5-yl)-ethyl]-benzyl}-2-(4-fluoro-phenoxy)-nicotinamide | 1.13 g | FC1=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=CC(=C1)C(C)(C1=NN=NN1)C | C23H20F2N6O2
